US09102692B2
Synthesis of [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(1H-indol-2-yl)-methanone hydrochloride
[5-Amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(1H-indol-2-yl)-methanone (194 mg) was dissolved in dimethylformamide (1.94 ml). An aqueous solution of 2 M hydrochloric acid (300 μl) was divided into five portions and separately added dropwise thereto at 25° C. 2-Propanol (4 ml) was divided into three portions and separately added to the reaction solution at five-minute intervals. The resulting precipitate was collected by filtration, and washed with 2-propanol (1 ml). Then, the powder was dried under reduced pressure at 40° C. This yielded an opalescent powder (188 mg, 88%).

reactant | [5-Amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(1H-indol-2-yl)-methanone | 194 mg | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1NC2=CC=CC=C2C1 | C20H16N6O
reactant | hydrochloric acid | 2 M, 300 μl | Cl | ClH
reactant | 2-Propanol | 4 ml | CC(C)O | C3H8O
solvent | dimethylformamide | 1.94 ml | CN(C=O)C | C3H7NO
product | [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(1H-indol-2-yl)-methanone hydrochloride | 188 mg, 88% | Cl.NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1NC2=CC=CC=C2C1 | InChI=1S/C20H16N6O.ClH/c1-11-23-16-7-6-13(9-17(16)24-11)26-20(21)14(10-22-26)19(27)18-8-12-4-2-3-5-15(12)25-18;/h2-10,25H,21H2,1H3,(H,23,24);1H
